US07067517B2
Methyl-phenyl-carbamic acid benzothiazol-2-yl ester
The title product was prepared from 2-benzothiazolol and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC. (70%, white crystals). HPLC-MS: m/z=307.1 (M+1); Rt: 4.24 min, purity 85%.

reactant | 2-benzothiazolol | S1C(=NC2=C1C=CC=C2)O | C7H5NOS
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid benzothiazol-2-yl ester | S1C(=NC2=C1C=CC=C2)OC(N(C2=CC=CC=C2)C)=O | C15H12N2O2S
